US07692005B2
2-Phenyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 2-Phenyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.222 mmol) and THF (2.5 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (42.2 mg, 0.221 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was redissolved in EtOAc (5 mL) and Hexane (40 mL) was added to the solution. The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (10 mL) to afford the title compound in 81% yield (0.112 g, 0.180 mmol).

reactant | 2-Phenyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.222 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C1=CC=CC=C1)=O | C26H18N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.221 mmol, 42.2 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-Phenyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 81% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C1=CC=CC=C1)=O | C37H33N7O3
